US07888352B2
To 2-chloro-4-morpholinothieno[2,3-d]pyrimidine-6-carbaldehyde (2.0 g) in 50 mL toluene and 50 mL THF was added 20 mL of 40% methylamine in H2O. The reaction mixture was stirred at room temp under N2 for 24 hours. The solvents were removed in vacuo and the residue was dissolved in 50 mL MeOH and 50 mL THF and the NaBH4 added portion-wise. This reaction mixture was stirred at room temp under N2 for 24 hours and complete reaction was confirmed by LCMS. The solvents were removed in vacuo and the crude product purified by flash chromatography (EtOAc/EtOH) to give 1.12 g (2-chloro-4-morpholinothieno[2,3-d]pyrimidin-6-yl)-N-methylmethanamine (53% yield). MS (Q1) 300 (M+).

reactant | 2-chloro-4-morpholinothieno[2,3-d]pyrimidine-6-carbaldehyde | 2.0 g | ClC=1N=C(C2=C(N1)SC(=C2)C=O)N2CCOCC2 | C11H10ClN3O2S
reactant | methylamine | 20 mL | CN | CH5N
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
product | (2-chloro-4-morpholinothieno[2,3-d]pyrimidin-6-yl)-N-methylmethanamine | 1.12 g, 53% yield | ClC=1N=C(C2=C(N1)SC(=C2)CNC)N2CCOCC2 | C12H15ClN4OS
